US07939533B2
a) 3-Chloro-2-methyl-phenylboronic acid
To a solution of 10.0 g (48.7 mmol) 2-bromo-6-chlorotoluene and 11.3 ml (48.7 mmol) triisopropyl borate in 90 ml dry THF were added dropwise 30 ml (49 mmol) of a 1.6 M solution on n-butyllithium in hexanes at −78° C. under argon. After 45 min the reaction mixture was allowed to warm to room temperature. The reaction was quenched by addition of 5 ml water and the solvent was evaporated in vacuo. Addition of 1 M aqueous hydrochloric acid solution was followed by extraction with four portions of dichloromethane. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Crystallisation from heptane gave 5.08 g (61%) of the title compound as a white solid.

reactant | 2-bromo-6-chlorotoluene | 48.7 mmol, 10.0 g | BrC1=C(C(=CC=C1)Cl)C | C7H6BrCl
reactant | triisopropyl borate | 48.7 mmol, 11.3 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | 3-Chloro-2-methyl-phenylboronic acid | 5.08 g, 61% | ClC=1C(=C(C=CC1)B(O)O)C | C7H8BClO2
